US04272437
Trans 3-azidocyclobutane carboxylic acid
To a solution of trans methyl 3-azidocyclobutane carboxylate (2.38 g, 15.3 mmol) in methanol (5 ml) was added water (5 ml). The resulting cloudy mixture was stirred vigorously and treated dropwise (0.5 h) with an aqueous solution of sodium hydroxide (1 N, 15.3 ml) at such a rate that the temperature was kept under 25° C. The reaction mixture was stirred at 23° C. for 2 h and the methanol was evaporated in vacuo to a slightly yellow residue which was diluted with water (10 ml). The aqueous solution was washed with ether (2×10 ml), acidified with 1 N hydrochloric acid and extracted with dichloromethane (4×25 ml). The organic extracts were combined, washed with water, dried over anhydrous sodium sulfate and concentrated to a colorless oil which solidified on standing; 2.02 g, 93%; mp 39°-41° C. Anal. calcd for C5H7N3O2 : C 42.55, H 5.00, N 29.78; found: C 42.41; H 5.02, N 29.59; ir (KBr) νmax : 2100 (N3) and 1705 cm-1 with shoulder at 1735 (C=O of carboxylic acid); 1Hmr (CDCl3) δ: 4.19 (1H, m, H-1) and 3.5-2.0 ppm (5H, H-2, H-3, H-4).

reactant | trans methyl 3-azidocyclobutane carboxylate | 15.3 mmol, 2.38 g | N(=[N+]=[N-])[C@@H]1C[C@H](C1)C(=O)OC | C6H9N3O2
reactant | water | 5 ml | O | H2O
reactant | sodium hydroxide | 1 N, 15.3 ml | [OH-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
product | Trans 3-azidocyclobutane carboxylic acid | N(=[N+]=[N-])[C@@H]1C[C@H](C1)C(=O)O | C5H7N3O2
